US06605610B1
To a solution of 3.80 g of 3-oxo-indan-1-carboxylic acid methyl ester (20.0 mmol, 1 equivalent) in 6 mL of toluene and 2 mL of acetonitrile was added 192 mg of zinc iodide (0.600 mmol, 0.03 equivalent) followed by 3.47 mL of trimethylsilyl cyanide (26.0 mmol, 1.3 equivalent). The reaction mixture was heated to 50° C. for 5 hours. The reaction mixture was then cooled to room temperature and diluted with 12 mL of toluene and 8 mL of a saturated aqueous sodium bicarbonate solution. After stirring the mixture for 1 hour the layers were separated. The organic layer was washed with another 8 mL of a saturated aqueous sodium bicarbonate solution followed by 8 mL of a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give 3-cyano-3-trimethylsilanyloxy-indan-1-carboxylic acid methyl ester as an oil (5.61 g, 97%). The silylated cyanohydrin title compound was obtained as a mixture of two diastereomers in a 2:1 ratio: 1H NMR (400 MHz, CDCl3): (major isomer) δ 7.54-7.50 (m, 1H), 7.42-7.38 (m, 3H), 4.14 (t, J=7.7 Hz, 1H), 3.78 (s, 3H), 3.01 (dd, J=13.3, 7.5 Hz, 1H), 2.79 (dd, J=13.3, 7.5 Hz, 1H), 0.26 (s, 9H); (minor isomer) δ 7.59-7.55 (m, 1H), 7.48-7.44 (m, 3H), 4.29 (t, J =7.5 Hz, 1H), 3.78 (s, 3H), 3.03 (dd, J=13.7, 7.5 Hz, 1H), 2.70 (dd, J=13.7, 7.5 Hz, 1H), 0.14 (s, 9H); 13C NMR (100 MHz, CDCl3): (unassigned) δ 172,3, 172.0, 142,3, 142.1, 140.1, 138.8, 130.8, 130.5, 129.1, 128.9, 125.8, 125.6, 124.7, 124.3, 120.8, 120.6, 75.4, 75.3, 52.7, 52.7, 47.4, 46.8, 45.6, 45.3, 1,4, 1.3; IR (neat, cm−1): 2956, 1739, 1477, 1436, 1253, 1197, 1169, 1135, 1092, 1033, 1011, 880, 843, 756, 623; Anal. Calcd for C15H119NO3Si: C, 62,25; H, 6.62; N, 4.84; Found: C, 62,20; H, 6.53; N, 4.92.

reactant | 3-oxo-indan-1-carboxylic acid methyl ester | 20.0 mmol, 3.80 g, 1 equivalent | COC(=O)C1CC(C2=CC=CC=C12)=O | C11H10O3
reactant | trimethylsilyl cyanide | 26.0 mmol, 3.47 mL, 1.3 equivalent | C[Si](C)(C)C#N | C4H9NSi
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium bicarbonate | 8 mL | C([O-])(O)=O.[Na+]
catalyst | zinc iodide | 0.600 mmol, 192 mg, 0.03 equivalent | [I-].[Zn+2].[I-]
product | 3-cyano-3-trimethylsilanyloxy-indan-1-carboxylic acid methyl ester | 5.61 g, 97% | COC(=O)C1CC(C2=CC=CC=C12)(O[Si](C)(C)C)C#N | C15H19NO3Si
